US08133911B2
A solution of methyl (2R)-2-[4-(carbamothioylamino)phenyl]propanoate (10.7 g, 0.0484 mol) in dioxane (200 ml) was treated at room temperature with 3-bromo-1,1,1-trifluoro-propan-2-one (5 ml, 0.0484 mol) and the resulting mixture was refluxed for 2 h. After cooling at room temperature, the solvent was evaporated under vacuum, the crude diluted with CH2Cl2 (200 ml) and washed with a saturated NaHCO3 aqueous solution (3×100 ml), dried over anhydrous Na2SO4 and evaporated to give pure methyl (2R)-2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)propanoate (12.8 g, 38.7 mmol) as yellow oil (80%). 1H-NMR (CDCl3): δ 8.65 (bs, 1H, NH), 7.30 (m, 4H), 7.05 (s, 1H), 3.75 (q, 1H, J=7 Hz), 3.65 (s, 3H), 1.50 (d, 3H, J=7 Hz).

reactant | methyl (2R)-2-[4-(carbamothioylamino)phenyl]propanoate | 0.0484 mol, 10.7 g | C(N)(=S)NC1=CC=C(C=C1)[C@H](C(=O)OC)C | C11H14N2O2S
reactant | 3-bromo-1,1,1-trifluoro-propan-2-one | 0.0484 mol, 5 ml | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | methyl (2R)-2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)propanoate | 38.7 mmol, 12.8 g, 80% | FC(C=1N=C(SC1)NC1=CC=C(C=C1)[C@H](C(=O)OC)C)(F)F | C14H13F3N2O2S
